US04790961
(d) 2-methoxyanthracene
A well-stirred mixture of 20 g zinc dust, 2 ml Fehling I solution, and 120 ml of water was added to a suspension of 8 g 2-methoxy-9-anthrone and 200 ml of 10% aqueous sodium hydroxide. The mixture was refluxed for 30 minutes and filtered hot to give a gray solid. The solid was heated on a steam bath and swirled vigorously while 120 ml of conc. hydrochloric acid were added drop by drop over a 40 min. period. A crude, slightly yellow solid was collected on a Buchner funnel, washed with 100 ml water and 50 ml methanol, and then crystallized from benzene twice to give 6.4 g (86%) of plate-like crystals: mp. 182.5°-183.5° C. (lit.* mp 163-165). IR (KBr): 1635, 1480, 1465, 1435, 1345, 1220-1175, 1300-1270, 1025, 950, 880, 800, 740 cm-1. 1H NMR (CDCl3 /TMS): δ8.3 (1 H, s, anthrancenyl meso proton), 8.2 (H, s, anthracenyl meso proton, 7.75-8.05 (3 H, m, oxyanthracenyl protons), 7.05-7.50 (4 H, m, oxyanthracenyl protons), 3.95 (3 H, s, ArOCH3).

reactant | 2-methoxy-9-anthrone | 8 g | COC1=CC=2C(C3=CC=CC=C3CC2C=C1)=O | C15H12O2
reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
reactant | hydrochloric acid | 120 ml | Cl | ClH
reactant | KBr | [K+].[Br-]
catalyst | zinc | 20 g | [Zn] | Zn
solvent | water | 120 ml | O | H2O
product | 2-methoxyanthracene | COC1=CC2=CC3=CC=CC=C3C=C2C=C1 | C15H12O
